US07816391B2
Intermediate #34: Methyl 2-[4-[4-(2-adamantylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]phenyl]acetate
Prepared from 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylic acid (Intermediate#35) and 2-adamantylamine hydrochloride by the same procedure as used for Intermediate #6.

reactant | 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylic acid | COC(=O)CC1=CC=C(C=C1)N1N=CC(=C1SCCC)C(=O)O | C16H18N2O4S
reactant | 2-adamantylamine hydrochloride | Cl.C12C(C3CC(CC(C1)C3)C2)N
product | Methyl 2-[4-[4-(2-adamantylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]phenyl]acetate | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C=NN(C2SCCC)C2=CC=C(C=C2)CC(=O)OC | C26H33N3O3S
